US04524206
Ethyl 2-Cyano-3-methyl-3-phenyl-2-propenoate (6)
A mixture of p-fluoroacetophenone (100 g, 0.72 mole), ethyl cyanoacetate (81.8 g, 0.72 mole), ammonium acetate (13 g, 0.17 mole) and acetic acid (34.7 g, 0.57 mole) is refluxed for 24 hours in benzene (200 mL) with a continuous removal of water by a Dean Stark trap. The cooled mixture is diluted with benzene (150 mL) and extracted with water (2×300 mL). The organic phase is separated, dried (Na2SO4), filtered and concentrated in vacuo to a brown oil. Kugelrohr distillation (125°-127°/0.03 Torr.) affords 108.4 g (64.3%) of product as a yellow green oil.

reactant | p-fluoroacetophenone | 0.72 mole, 100 g | FC1=CC=C(C=C1)C(C)=O | C8H7FO
reactant | ethyl cyanoacetate | 0.72 mole, 81.8 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | ammonium acetate | 0.17 mole, 13 g | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | 0.57 mole, 34.7 g | C(C)(=O)O | C2H4O2
solvent | benzene | 200 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 150 mL | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | Ethyl 2-Cyano-3-methyl-3-phenyl-2-propenoate | 108.4 g, 64.3% | C(#N)C(C(=O)OCC)=C(C1=CC=CC=C1)C | C13H13NO2
